US06294531B1
a) 2-Chloro-6-methoxybenzonitrile
2-Chloro-6-fluorobenzonitrile (Aldrich, 5.0 g, 32.1 mmol) was dissolved in MeOH (100 mL), NaOMe (7.4 mL of 25% wt. solution, 32.1 mmol) and refluxed 18 h. The mixture was concentrated poured into EtOAc/H2O and extracted with EtOAc to give the title compound (5.3 g, 59%).

reactant | 2-Chloro-6-fluorobenzonitrile | 32.1 mmol, 5.0 g | ClC1=C(C#N)C(=CC=C1)F | C7H3ClFN
reactant | NaOMe | 32.1 mmol, 7.4 mL | C[O-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | 2-Chloro-6-methoxybenzonitrile | 5.3 g, 59% | ClC1=C(C#N)C(=CC=C1)OC | C8H6ClNO
